US08034827B2
d) [5-(3,4-Dichloro-benzenesulfonyl)-8-fluoro-5,6-dihydro-phenanthridin-6-yl]-acetic acid
To a stirred solution of [5-(3,4-dichloro-benzenesulfonyl)-8-fluoro-5,6-dihydro-phenanthridin-6-yl]-acetic acid methyl ester (0.48 g, 1 mmol) in a 1:1 mixture of tetrahydrofuran and water (30 mL) lithium hydroxide monohydrate (105 mg, 2.5 mmol) was added. The reaction mixture was stirred at room temperature for 2 hours, then concentrated. The residue was dissolved in a mixture of ethyl acetate (25 mL) and water (25 mL) and acidified with 1N hydrochloride solution. The aqueous phase was separated and extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to yield 0.46 g (98%) of the title compound as white crystals.

reactant | [5-(3,4-dichloro-benzenesulfonyl)-8-fluoro-5,6-dihydro-phenanthridin-6-yl]-acetic acid methyl ester | 1 mmol, 0.48 g | COC(CC1N(C=2C=CC=CC2C2=CC=C(C=C12)F)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C22H16Cl2FNO4S
reactant | water | 2.5 mmol, 30 mL, 105 mg | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [5-(3,4-Dichloro-benzenesulfonyl)-8-fluoro-5,6-dihydro-phenanthridin-6-yl]-acetic acid | 0.46 g, 98% | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C=2C=CC=CC2C2=CC=C(C=C2C1CC(=O)O)F | C21H14Cl2FNO4S
